US07566735B2
N-methyl-N-(2-thienylmethyl)-2-{4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}acetamide
A solution of {4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}acetic acid (65 mg, 0.2 mmol) in dichloromethane (2 ml) was treated in one portion with solid 1,1′-carbonyldiimidazole (33 g, 0.2 mmol). This mixture was shaken at room temperature for 15 minutes. Methylthiophen-2-yl methylamine (25 mg, 0.2 mmol) was then added and the shaking continued for 1 hour at room temperature. The reaction mixture was partitioned between dichloromethane and saturated sodium bicarbonate solution (3 ml). The organic layer was dried over sodium sulphate and evaporated under reduced pressure to give a yellow oil which was purified using mass directed auto-prep to give the title compound as a yellow oil (42 mg, 48%).

reactant | {4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}acetic acid | 0.2 mmol, 65 mg | FC(C1=NN(C=2CCCCC12)C1=CC=C(C=C1)CC(=O)O)(F)F | C16H15F3N2O2
reactant | 1,1′-carbonyldiimidazole | 0.2 mmol, 33 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Methylthiophen-2-yl methylamine | 0.2 mmol, 25 mg | CN(C)C=1SC=CC1 | C6H9NS
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-methyl-N-(2-thienylmethyl)-2-{4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}acetamide | 42 mg, 48% | CN(C(CC1=CC=C(C=C1)N1N=C(C=2CCCCC12)C(F)(F)F)=O)CC=1SC=CC1 | C22H22F3N3OS
